US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-4-methyl-D-leucine
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (20 mg, 0.037 mmol) was dissolved in 1.5 ml DMF. N-Methylmorpholine (13 μl, 118 mmol) and TBTU (15 mg, 0.047 mmol) were added and the mixture was stirred for 1 h., β-tert-Butyl-D-alanine (11 mg, 0.076 mmol) was added and the mixture was stirred for 3 h. Water (0.2 ml) was added and the mixture was stirred for 15 min. MeOH (2 ml) and NaBH4 (15 mg) were added. NH4Ac (ca 20 mg) was added after 15 min. Purification was performed using preparative HPLC on a C8 column. A gradient from 20-50% MeCN in 0.1M NH4Ac was used as mobile phase. Lyophilization yielded 17.5 mg (70%) of the title compound. M/z: 668 (M−1). NMR (400 MHz, DMSO): 8.24 (t, 1H), 7.77-7.87 (m, 1H), 7.32-7.40 (m, 4H), 7.22-7.27 (m, 2H), 7.07-7.19 (m, 4H), 6.99 (d, 2H), 5.06 (dd, 1H), 4.70-4.78 (m, 1H), 4.53 (s, 2H), 4.31 (dd, 1H), 4.09-4.17 (m, 1H), 3.65-3.81 (m, 2H), 2.84-3.00 (m, 2H), 1.65 (dd, 1H), 1.42 (dd, 1H), 0.86 (s, 9H).

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.037 mmol, 20 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-Methylmorpholine | 118 mmol, 13 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.047 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | β-tert-Butyl-D-alanine | 0.076 mmol, 11 mg | C(C)(C)(C)C[C@@H](N)C(=O)O | C7H15NO2
reactant | NaBH4 | 15 mg | [BH4-].[Na+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 2 ml | CO | CH4O
solvent | Water | 0.2 ml | O | H2O
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-4-methyl-D-leucine | 17.5 mg, 70% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CC(C)(C)C)C(=O)O)C=C1 | C34H37F2N3O7S
